US04255434
134.5 g (1 mol) of 1-chloro-2,2-dimethyl-butan-3-one were dissolved in 500 ml of ether. 51 ml (1 mol) of bromine were added dropwise at room temperature, with slight cooling, at a rate such that the bromine was steadily consumed. The solution was then stirred into 1,000 ml of ice-water and the organic phase was separated off, rinsed with 250 ml of water, dried over sodium sulphate and distilled. 169 g (80% of theory) of 1-bromo-4-chloro-3,3-dimethyl-butan-2-one of boiling point 95°-106° C./13 mm Hg were obtained.

reactant | 1-chloro-2,2-dimethyl-butan-3-one | 1 mol, 134.5 g | ClCC(C(C)=O)(C)C | C6H11ClO
reactant | bromine | 1 mol, 51 ml | BrBr | Br2
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-bromo-4-chloro-3,3-dimethyl-butan-2-one | 169 g, 80% | BrCC(C(CCl)(C)C)=O | C6H10BrClO
